US08536169B2
N-[6-(1H-Indol-4-yl)-1H-indazol-4-yl]-4-methyl-2-morpholinecarboxamide
4-Methyl-2-morpholinecarboxylic acid hydrochloride (40 mg, 0.22 mmol) was treated with HATU (84 mg, 0.22 mmol) in DMF (0.250 mL) and DIPEA (0.069 mL, 0.40 mmol). The mixture was shaken for five minutes prior to treatment with 6-(1H-indol-4-yl)-1H-indazol-4-amine (25 mg, 0.1 mmol) in DMF (0.25 mL). Reaction mixture was left to stand at room temperature for 18 hrs. Solvent was removed in vacuo and the product re-dissolved in chloroform (0.3 mL) prior to application on to a pre-conditioned (methanol then chloroform) NH2 cartridge (0.5 g). Product was eluted after 2 hr with ethyl acetate/methanol (1:1, 3 mL), and concentrated under a stream of nitrogen using blow down apparatus. Purification by MDAP (Method D) afforded the title compound.

reactant | 4-Methyl-2-morpholinecarboxylic acid hydrochloride | 0.22 mmol, 40 mg | Cl.CN1CC(OCC1)C(=O)O
reactant | HATU | 0.22 mmol, 84 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.40 mmol, 0.069 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 6-(1H-indol-4-yl)-1H-indazol-4-amine | 0.1 mmol, 25 mg | N1C=CC2=C(C=CC=C12)C=1C=C(C=2C=NNC2C1)N | C15H12N4
solvent | DMF | 0.250 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.25 mL | CN(C)C=O | C3H7NO
product | N-[6-(1H-Indol-4-yl)-1H-indazol-4-yl]-4-methyl-2-morpholinecarboxamide | N1C=CC2=C(C=CC=C12)C1=CC(=C2C=NNC2=C1)NC(=O)C1CN(CCO1)C | C21H21N5O2
